US04092473
The conversion reaction was carried out in a manner similar to Example 4 with the same strain, in which L-leucine was used in substitution for DL-norvaline in Example 4 as the isovaleryl donor. About 400 mg of white crystals of 3-acetyl-4"-isovaleryltylosin were obtained from 3 g of tylosin.

reactant | L-leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | DL-norvaline | NC(CCC)C(=O)O | C5H11NO2
reactant | 3-acetyl-4"-isovaleryltylosin | CC[C@@H]1[C@H](/C=C(/C=C/C(=O)[C@@H](C[C@@H]([C@@H]([C@H]([C@@H](CC(=O)O1)OC(=O)C)C)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C)O[C@H]3C[C@@]([C@H]([C@@H](O3)C)OC(=O)CC(C)C)(C)O)N(C)C)O)CC=O)C)\C)CO[C@H]4[C@@H]([C@@H]([C@@H]([C@H](O4)C)O)OC)OC | C53H87NO19
product | tylosin | 3 g | CC[C@@H]1[C@H](/C=C(/C=C/C(=O)[C@@H](C[C@@H]([C@@H]([C@H]([C@@H](CC(=O)O1)O)C)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C)O[C@H]3C[C@@]([C@H]([C@@H](O3)C)O)(C)O)N(C)C)O)CC=O)C)\C)CO[C@H]4[C@@H]([C@@H]([C@@H]([C@H](O4)C)O)OC)OC | C46H77NO17
